US05958967
(±)-cis-6-Hydroxy-3-(3-hydroxyphenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane
Thus, (±)-cis-6-methoxy-3-(3-methoxyphenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane (0.24 g, 0.52 mmol) was de-methylated by heating with pyridine hydrochloride (0.60 g, 5.20 mmol) to give the title compound, after purification and drying, as a colourless gum.

reactant | (±)-cis-6-methoxy-3-(3-methoxyphenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane | 0.52 mmol, 0.24 g | COC=1C=C2[C@@H]([C@@H](COC2=CC1)C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OCCN1CCCC1 | C29H33NO4
reactant | pyridine hydrochloride | 5.20 mmol, 0.60 g | Cl.N1=CC=CC=C1
product | (±)-cis-6-Hydroxy-3-(3-hydroxyphenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | OC=1C=C2[C@@H]([C@@H](COC2=CC1)C1=CC(=CC=C1)O)C1=CC=C(C=C1)OCCN1CCCC1 | C27H29NO4
